US07122565B2
To a mixture of 3-hydroxybenzoic acid (14.480 mmol, 2 g) in acetic acid (14.5 mL) and sulfuric acid (1.5 mL) at 50° C., a solution of bromine (15.204 mmol, 0.780 mL) in acetic acid (7.2 mL) was added and stirred 30 minutes at 100° C. The reaction was allowed to cool to RT and diluted with water. The aqueous layer was extracted with ethyl acetate, washed with water and brine, dried (MgSO4), filtered, and concentrated under reduced pressure to give the 4-bromo-2-hydroxy-benzoic acid. Yield: 100%.

reactant | 3-hydroxybenzoic acid | 14.480 mmol, 2 g | OC=1C=C(C(=O)O)C=CC1 | C7H6O3
reactant | bromine | 15.204 mmol, 0.780 mL | BrBr | Br2
reactant | acetic acid | 14.5 mL | C(C)(=O)O | C2H4O2
reactant | acetic acid | 7.2 mL | C(C)(=O)O | C2H4O2
solvent | sulfuric acid | 1.5 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 4-bromo-2-hydroxy-benzoic acid | Yield: 100% | BrC1=CC(=C(C(=O)O)C=C1)O | C7H5BrO3
